US07560551B2
Synthesis of 4-Chloro-1H-pyrrolo[2,3-b]pyridine
The title compound was prepared according to the procedure described in WO2003082289A1. A solution of azaindole N-oxide (6.82 g, 51.0 mmol) in DMF (36.0 ml, 470 mmol) was heated to 50° C. Methanesulfonyl chloride (11.0 ml, 137 mmol) was added to the heated solution at such a rate as to maintain the reaction temperature at 65 to 75° C. The resulting mixture was heated at 68-77° C. until the reaction was judged complete by RPLC. The total reaction time was 4 hours. The reaction was cooled to rt and quenched with water (10 mL). The mixture was cooled to 5° C. 10 N NaOH solution was added to raise the pH of the solution to 7. The resulting slurry was warmed to rt, agitated for 1 h, and then filtered to collect the product. The product was washed with additional water and dried under vacuum. Rusty solid, 4-chloro-1H-pyrrolo[2,3-b]pyridine was collected. 1H NMR (Bruker, 400 MHz, DMSO-d6) 12.0 (br s, 1H), 8.19 (d, J=5.4 Hz, 1H), 7.60 (t, J=3.0 Hz, 1H), 7.20 (d, J=5.0 Hz, 1H), 6.52 (d, J=3.0 Hz, 1H).

reactant | azaindole N-oxide | 51.0 mmol, 6.82 g | [N+]=1(NC=C2C=CC=CC12)[O-] | C7H6N2O
reactant | DMF | 470 mmol, 36.0 ml | CN(C)C=O | C3H7NO
reactant | Methanesulfonyl chloride | 137 mmol, 11.0 ml | CS(=O)(=O)Cl | CH3ClO2S
product | 4-Chloro-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
